US07576212B2
A mixture of (6-chloro-3-phenyl-thieno[2,3-b]pyridin-4-yl)-pyridin-2-ylmethyl-amine (20 mg, 0.57 mmol) and ethanolamine (1 ml) were heated to 200° C. in the microwave and maintained at this temperature for 90 min. On cooling, the reaction mixture was poured into DCM (50 ml) and washed with water (2×50 ml), dried (Na2SO4), and concentrated. The residue was purified on silica (ethyl acetate, 100%) to give 2-{3-phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-ylamino}-ethanol as a white solid. Yield=18 mg (83.9%).

reactant | (6-chloro-3-phenyl-thieno[2,3-b]pyridin-4-yl)-pyridin-2-ylmethyl-amine | 0.57 mmol, 20 mg | ClC1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2 | C19H14ClN3S
reactant | ethanolamine | 1 ml | C(O)CN | C2H7NO
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-{3-phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-ylamino}-ethanol | C1(=CC=CC=C1)C1=CSC2=NC(=CC(=C21)NCC2=NC=CC=C2)NCCO | C21H20N4OS
